US07517877B2
Sodium hydride (0.032 g, 60%, 0.8 mmol) was added to a solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-(3-ethylthiopropylamino)-4-trifluoromethylsulfonylpyrazole (0.3 g, 0.54 mmol) in tetrahydrofuran 20° C. under nitrogen. The mixture was stirred at 20° C. for one hour then ethyl chloroformate (0.121 g, 1.1 mmol) was added. The mixture was stirred at 20° C. for 5 hours, then poured into saturated ammonium chloride and ethyl acetate. The organic layer was washed with water and brine, dried (sodium sulfate), evaporated to provide and purified by chromatography on silica gel eluting with heptane-ethyl acetate (4:1) to give 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-[N-ethoxycarbonyl-N-(3-ethylthiopropyl)amino]-4-trifluoromethylsulfonylpyrazole as an oil (Compound number 3-14, 0.278 g, 81% yield), 19F: −63.9; −77.9.

reactant | Sodium hydride | 0.8 mmol, 0.032 g | [H-].[Na+]
reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-(3-ethylthiopropylamino)-4-trifluoromethylsulfonylpyrazole | 0.54 mmol, 0.3 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NCCCSCC)S(=O)(=O)C(F)(F)F)C#N | C17H14Cl2F6N4O2S2
reactant | ethyl chloroformate | 1.1 mmol, 0.121 g | ClC(=O)OCC | C3H5ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-[N-ethoxycarbonyl-N-(3-ethylthiopropyl)amino]-4-trifluoromethylsulfonylpyrazole | 81% yield | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N(CCCSCC)C(=O)OCC)S(=O)(=O)C(F)(F)F)C#N | C20H18Cl2F6N4O4S2
